US08110579B2
Dissolve 3 g (10.44 mmol) of 9-benzoylamino bicyclo[3.3.1]nonane-9-carboxylic acid in 200 mL of AcOH and 50 mL of 6N HCl aqueous solution, reflux the mixture for 18 h and then concentrate partially by distillation of 150 mL of solvent. After cooling, filter the reaction mixture and distribute in 150 mL of a 1:2 mixture of 1N HCl aqueous solution/ether. After extraction, concentrate the aqueous phase and then treat it dropwise with a 12N aqueous solution of soda (NaOH) to adjust the pH to 5-6. Filter the amino acid thus precipitated, wash with 3×50 mL of water and dry under reduced pressure, which gives 1.88 g of 9-aminobicyclo[3.3.1]nonane-9-carboxylic acid in the form of white crystals.

reactant | 9-benzoylamino bicyclo[3.3.1]nonane-9-carboxylic acid | 10.44 mmol, 3 g | C(C1=CC=CC=C1)(=O)NC1(C2CCCC1CCC2)C(=O)O | C17H21NO3
solvent | AcOH | 200 mL | CC(=O)O | C2H4O2
solvent | HCl | 6N, 50 mL | Cl | ClH
product | 9-aminobicyclo[3.3.1]nonane-9-carboxylic acid | 1.88 g, Yield=98% | NC1(C2CCCC1CCC2)C(=O)O | C10H17NO2
